US07855211B2
4-(6-Amino-pyridin-3-ylsulfanyl)-piperidine-1-carboxylic acid tert-butyl ester
Add dry toluene (6.06 mL) to a mixture of 2,9-dimethyl-1,10-phenanthroline (76.52 mg), copper(I) iodide (69.27 mg), sodium tert-butoxide (475.59 mg), 4-mercapto-piperidine-1-carboxylic acid tert-butyl ester (583.5 mg), magnesium (49.10 mg) and 2-amino-5-iodopyridine (550 mg). Bubble nitrogen into the mixture with ultrasound and stir the suspension at 110° C. in a sealed tube for 24 h. Cool and filter through celite. Wash with toluene and remove the solvent under vacuum. Add hexane/EA (1/1) and filter through a celite/silica gel pad, washing twice with hexane/EA (1/1) and then EA. Remove the solvent under vacuum. Purify by silica gel column chromatography eluting with hexane/EA (50-75%) to afford 630 mg of the title compound. MS (ES+): m/z=310 (M+H)+

reactant | 2,9-dimethyl-1,10-phenanthroline | 76.52 mg | CC1=NC2=C3N=C(C=CC3=CC=C2C=C1)C | C14H12N2
reactant | sodium tert-butoxide | 475.59 mg | CC(C)([O-])C.[Na+]
reactant | 4-mercapto-piperidine-1-carboxylic acid tert-butyl ester | 583.5 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)S | C10H19NO2S
reactant | magnesium | 49.10 mg | [Mg] | Mg
reactant | 2-amino-5-iodopyridine | 550 mg | NC1=NC=C(C=C1)I | C5H5IN2
catalyst | copper(I) iodide | 69.27 mg | [Cu]I
solvent | toluene | 6.06 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(6-Amino-pyridin-3-ylsulfanyl)-piperidine-1-carboxylic acid tert-butyl ester | 630 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)SC=1C=NC(=CC1)N | C15H23N3O2S
